US09376441B2
Into a microwave-tube, a mixture of (R)-4-((R)-1-((5-bromo-1-cyclopropyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: (100.0 mg, 0.275 mmol), 2-(tributylstannyl)pyridine (152.0 mg, 0.412 mmol) Bis(triphenylphosphine)palladium(II) dichloride (28.9 mg, 0.04 mmol) and dioxane (8 mL). The reaction mixture was placed in the microwave reactor and heated at 130° C. for 30 min. Quenched with saturated KF, extracted with EtOAc (3×30 ml). The combined organic layers were washed with water (2×5 mL), concentrated, and purified by flash chromatography (100% EtOAc to 20% MeOH/EtOAc) to give 18.0 mg (18.1%) of (R)-4-((R)-1-((1-cyclopropyl-5-(pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one. 1H NMR (300 MHz, DMSO-d6) δ 8.65 (d, J=7.5 Hz 1H), 8.127 (s, 1H), 8.04 (d, J=9.6 Hz 1H), 7.90-7.81 (m, 2H), 7.62 (d, J=0.9 Hz 1H), 7.60 (s, 1H), 7.324-7.283 (m, 1H), 4.856-4.815 (m, 1H), 3.742-3.695 (m, 1H), 3.41 (t, J=9.5 Hz, 1H), 3.21 (dd, J=6.3, 6.9 Hz, 1H), 2.862-2.811 (m, 1H), 2.426-2.24 (m, 2H), 1.33 (d, J=6.6 Hz, 3H), 1.266-1.016 (m, 4H). LCMS-ESI+ (m/z): [M+H]+ calcd C21H22N4O2:362.17; found 363.1.

reactant | (R)-4-((R)-1-((5-bromo-1-cyclopropyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | BrC1=CC2=C(N(C=N2)C2CC2)C(=C1)O[C@H](C)[C@@H]1CC(NC1)=O | C16H18BrN3O2
reactant | 2-(tributylstannyl)pyridine | 0.412 mmol, 152.0 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (R)-4-((R)-1-((1-cyclopropyl-5-(pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | 18.0 mg, 18.1% | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=NC=CC=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C21H22N4O2
